US06203724B1
A mixture of 5.00 g of 4-ethynyl-4,4′-dipentylbicyclohexyl, 12.5 ml of pyridine, 12.5 ml of methanol and 3.635 g of copper(II) acetate monohydrate is stirred at RT for 1.5 hours and subsequently heated at the boil. The mixture is stirred for 10 hours and subjected to conventional work-up, giving 4-[4-(4,4′-dipentylbicyclohexyl-4-yl)buta-1,3-diynyl]-4,4′-dipentylbicyclohexyl (C 77 SmB 198 I, Δn=0.013, Δε=−0.27).

reactant | 4-ethynyl-4,4′-dipentylbicyclohexyl | 5.00 g | C(#C)C1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C24H42
reactant | pyridine | 12.5 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate monohydrate | 3.635 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methanol | 12.5 ml | CO | CH4O
product | 4-[4-(4,4′-dipentylbicyclohexyl-4-yl)buta-1,3-diynyl]-4,4′-dipentylbicyclohexyl | C(CCCC)C1(CCC(CC1)C1CCC(CC1)CCCCC)C#CC#CC1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C48H82
